US04113464
Preparation of N-Methyl-N-(1,3-dioxolan-2-ylmethyl)-α-chloroacetamide
N-Methyl-N-(2,2-dimethoxyethyl)-α-chloroacetamide (19.5 grams; 0.10 mole), ethylene glycol (6.82 grams; 0.11 mole) and 10 drops of a solution of toluene sulfonic acid (1 gram) in ether (100 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and distillation head. The mixture was heated at 100° to 110° C. with stirring and the methanol removed as it was formed. After no more methanol was given off the reaction mixture was cooled to room temperature and was stirred with about 2 grams of sodium carbonate for a period of about 1 hour. After this time the reaction mixture was filtered and the filtrate was distilled under reduced pressure to yield the desired product N-methyl-N-(1,3-dioxolan-2-ylmethyl)-α-chloroacetamide having a boiling point of 119° to 124° C. at a pressure of 0.15 to 0.30 mm of Hg.

reactant | N-Methyl-N-(2,2-dimethoxyethyl)-α-chloroacetamide | 0.10 mole, 19.5 grams | CN(C(CCl)=O)CC(OC)OC | C7H14ClNO3
reactant | ethylene glycol | 0.11 mole, 6.82 grams | C(CO)O | C2H6O2
reactant | toluene sulfonic acid | 1 gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | about 2 grams | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | N-methyl-N-(1,3-dioxolan-2-ylmethyl)-α-chloroacetamide | CN(C(CCl)=O)CC1OCCO1 | C7H12ClNO3
